US04260623
Utilizing the procedure described in Example 2 above, 8.9 g of hexahydro-1'-benzyl-1-(2-methoxyphenyl)spiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] is hydrogenated in the presence of a palladium on charcoal catalyst to obtain hexahydro-1-(2-methoxyphenyl)spiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] as an oil after evaporation of the organic layer. The oil, 5.8 g, is dissolved in 30 ml ether and added to a solution of 2.4 g oxalic acid dihydrate in 40 ml of ether. The precipitated solid is collected by filtration and recrystallized from methanol-ethyl acetate to obtain the oxalate salt; mp 185°-186° C.

reactant | hexahydro-1'-benzyl-1-(2-methoxyphenyl)spiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] | 8.9 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1N2CCCC1)C1=C(C=CC=C1)OC | C25H32N2O2
catalyst | palladium on charcoal | [Pd] | Pd
product | hexahydro-1-(2-methoxyphenyl)spiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] | COC1=C(C=CC=C1)C1OC2(CCNCC2)N2C1CCCC2 | C18H26N2O2
